US07612114B2
2-(4-Benzyloxyphenyl)-N-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]acetamide
Synthesized from 5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenylamine (1.1 g) and 4-benzyloxyphenylacetyl chloride (1.3 g) according to an analogous synthetic method to Preparation Example 87, the title compound (1.6 g) was obtained.

reactant | 5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenylamine | 1.1 g | COC=1C=CC(=C(C1)N)C1CC2=CC=C(C=C2CC1)OC | C18H21NO2
reactant | 4-benzyloxyphenylacetyl chloride | 1.3 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(=O)Cl | C15H13ClO2
product | 2-(4-Benzyloxyphenyl)-N-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]acetamide | 1.6 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(=O)NC1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC | C33H33NO4
